US05284857
trans-6-Benzyloxy-2-bromo-5,6-dihydro-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran
Sodium hydride (60% in mineral oil, 0.47 g, 11.7 mmol) was added to a solution of trans-2-bromo-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno-[3,2-b]pyran (4.0 g, 11.1 mmol) in DMF (50 mL) at 0° C. and stirred at rt for 30 min. Benzylbromide (1.45 mL, 12.2 mmol) was added to the resultant solution and stirred at rt for 2 h. The solution was poured into water (200 mL) and extracted into dichloromethane. The organic phase was washed several times with water and dried over magnesium sulfate. The solvent was evaporated in vacuo, and the residue was purified by flash chromatography using 2% methanol in dichloromethane as the eluant. The product was recrystallized from dichloromethane/hexane to give a colorless solid, 3.87 g (77%); mp 146°-147° C.; IR(KBr): 1634 and 1570 cm-1 ; MS: m/z 450 (MH+); 1H NMR(CDCl 3): 1.32 (s, 3H), 1.50 (s, 3H), 1.53-1.77 (m, 4H), 2.37-2.45 (m, 2H), 2.87 (m, 1H), 3.08 (m, 1H), 3.69 (d, J=8.6 Hz, 1H), 4.60 (d, J=11.8 Hz, 1H), 4.73 (d, J=11.8 Hz, 1H), 5.90 (bs, 1H), 6.54 (s, 1H) and 7.26-7.37 (m, 5H).

reactant | Sodium hydride | 11.7 mmol, 0.47 g | [H-].[Na+]
reactant | trans-2-bromo-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno-[3,2-b]pyran | 11.1 mmol, 4.0 g | BrC1=CC=2OC([C@H]([C@@H](C2S1)N1C(CCCC1)=O)O)(C)C | C14H18BrNO3S
reactant | Benzylbromide | 12.2 mmol, 1.45 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | trans-6-Benzyloxy-2-bromo-5,6-dihydro-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran | C(C1=CC=CC=C1)O[C@H]1[C@@H](C2=C(OC1(C)C)C=C(S2)Br)N2C(CCCC2)=O | C21H24BrNO3S
